US04460579
A suspension of (2-phthalimido-3-phenylpropyl)phosphinic acid in dry benzene is treated with phosphorus pentachloride and stirred at room temperature under argon for an hour. The mixture is then refluxed for 15 minutes, cooled and evaporated to dryness at room temperature (0.5 mm. of Hg). The residue is taken up in dry methylene chloride and reacted successively with a mixture of ethanol (1 eq.) and triethylamine (1 eq.) in methylene chloride and (R)-dihydro-5-amino-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, ethyl ester in the presence of triethylamine according to the procedure of Example 1(f). Work up of the reaction mixture according to the procedure of Example 1(f) yields (R)-dihydro-5-[[[2-phthalimido-3-phenylpropyl]ethoxyphosphinyl]amino]-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, ethyl ester.

reactant | (2-phthalimido-3-phenylpropyl)phosphinic acid | C1(C=2C(C(N1C(CP(O)=O)CC1=CC=CC=C1)=O)=CC=CC2)=O | C17H16NO4P
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | ethanol | 1 eq. | C(C)O | C2H6O
reactant | triethylamine | 1 eq. | C(C)N(CC)CC | C6H15N
reactant | (R)-dihydro-5-amino-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, ethyl ester | NC1C(N([C@H](SC1)C1=CC=CC=C1)CC(=O)OCC)=O | C14H18N2O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (R)-dihydro-5-[[[2-phthalimido-3-phenylpropyl]ethoxyphosphinyl]amino]-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, ethyl ester | C1(C=2C(C(N1C(CP(=O)(OCC)NC1C(N([C@H](SC1)C1=CC=CC=C1)CC(=O)OCC)=O)CC1=CC=CC=C1)=O)=CC=CC2)=O | C33H36N3O7PS
